US05767129
2-[4,4-Bis-(4-fluorophenyl)butyl]-5-hydroxyiso quinolinium bromide
A mixture of 5-hydroxyisoquinoline (4.56 g, 31.41 mmol) and 4,4-bis(4-fluorophenyl)butyl bromide (11.40 g, 35.06 mmol. Prepared according to the procedure of Miroslav Rajsner, et al., Czech. Collect. Czech. Chem. Commun., 1978;43:1760) in 100 mL of anhydrous DMF was stirred at 80° C. overnight. The reaction mixture was cooled to 0° C. Ethyl acetate (400 mL) was added to precipitate product. The solid was collected by filtration and washed with ethyl acetate (2×100 mL). The solid was air-dried to give 10.74 g of product as an off-white solid.

reactant | 5-hydroxyisoquinoline | 31.41 mmol, 4.56 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | 4,4-bis(4-fluorophenyl)butyl bromide | FC1=CC=C(C=C1)C(CCCBr)C1=CC=C(C=C1)F | C16H15BrF2
product | 2-[4,4-Bis-(4-fluorophenyl)butyl]-5-hydroxyiso quinolinium bromide | 10.74 g | [Br-].FC1=CC=C(C=C1)C(CCC[N+]1=CC2=CC=CC(=C2C=C1)O)C1=CC=C(C=C1)F | InChI=1S/C25H21F2NO.BrH/c26-21-10-6-18(7-11-21)23(19-8-12-22(27)13-9-19)4-2-15-28-16-14-24-20(17-28)3-1-5-25(24)29;/h1,3,5-14,16-17,23H,2,4,15H2;1H
